US04727073
A mixture of 5-bromomethyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine (1.5 g), N-methylpiperazine (1.17 g) in isopropyl alcohol (15 ml) was refluxed for 6 hours. After evaporating the solvent, the residue was dissolved in chloroform, washed with saturated aqueous sodium chloride and dried over magnesium sulfate. The filtrate was evaporated under reduced pressure, and the residue was subjected to column chromatography on alumina (100 g) eluting with chloroform. The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was recrystallized from diethyl ether to give 6-methyl-5-(4-methylpiperazin-1-ylmethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine. (0.30 g).

reactant | 5-bromomethyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine | 1.5 g | BrCC=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C18H14BrN3O2
reactant | N-methylpiperazine | 1.17 g | CN1CCNCC1 | C5H12N2
solvent | isopropyl alcohol | 15 ml | C(C)(C)O | C3H8O
product | 6-methyl-5-(4-methylpiperazin-1-ylmethyl)-4-(3-nitrophenyl)-2-phenylpyrimidine | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])CN1CCN(CC1)C | C23H25N5O2
